US07855193B2
5-(Tetrahydro-2H-pyran-4-yl)benzofuran (Step 2 in Scheme 6)
To a solution of 4-(benzofuran-5-yl)-tetrahydro-2H-pyran-4-ol (109 mg, 0.5 mmol) in DCM (5 mL) at 0° C. under nitrogen atmosphere was added triethylsilane (175 mg, 1.5 mmol) followed by TFA (570 mg, 5.0 mmol). After stirring for 15 min at the same temperature, the cooling bath was removed, and allowed the reaction mixture to reach room temperature. It was further stirred at room temperature for 6 h and then poured into crushed ice-water mixture (10 mL). It was extracted with DCM (3×10 mL), and the combined organic layer was washed with brine (10 mL), dried and evaporated. The crude compound was purified by column chromatography using 5% EtOAc-hexanes to afford the desired product (88%). 1H NMR (400 MHz, CDCl3) δ 7.61 (d, 1H), 7.44 (d, 2H), 7.15 (d, 1H), 6.73 (d, 1H), 4.11 (dd, 2H), 3.56 (t, 2H), 2.89-2.81 (m, 1H), 1.93-1.79 (m, 4H).

reactant | 4-(benzofuran-5-yl)-tetrahydro-2H-pyran-4-ol | 0.5 mmol, 109 mg | O1C=CC2=C1C=CC(=C2)C2(CCOCC2)O | C13H14O3
reactant | triethylsilane | 1.5 mmol, 175 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 5.0 mmol, 570 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(Tetrahydro-2H-pyran-4-yl)benzofuran | 88% | O1CCC(CC1)C=1C=CC2=C(C=CO2)C1 | C13H14O2
